US07081531B2
3-(3,4-Dichloro-benzylidene)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (1.0 g, 2.7 mmol) in 10 mL of EtOH and 10 mL of EtOAc was stirred with 25 mg of PtO2 under 1 atm of H2 at rt for 3 h. It was then filtered through a celite bed and the filtrate was concentrated. The residue was purified on a silica gel column to give 0.84 g of 3-(3,4-dichloro-benzyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (M++1: 370).

reactant | 3-(3,4-Dichloro-benzylidene)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 2.7 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=CC2=CC(=C(C=C2)Cl)Cl | C19H23Cl2NO2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | 25 mg | O=[Pt]=O
product | 3-(3,4-dichloro-benzyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.84 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)CC2=CC(=C(C=C2)Cl)Cl | C19H25Cl2NO2
